US06852726B2
Chlorosulfonic acid (3.05 ml, 45.9 mmole) from the above Step was added to a suspension of anhydrous sodium sulfate (0.71 g) in methylene chloride (30 ml). After stirring for 25 minutes at room temperature, (5-nitro-indol-1-yl)-acetonitrile (1.00 g) dissolved in methylene chloride was added via syringe. After stirring for 2 h, the reaction mixture was worked up by the cautious addition of ice. When the ice had melted, the mixture was filtered to afford an off-white powder which was washed well with water to afford 0.806 g of 1-carbamoylmethyl-5-nitro-1H-indole-3-sulfonyl chloride (51% yield).

reactant | Chlorosulfonic acid | 45.9 mmole, 3.05 ml | ClS(=O)(=O)O | ClHO3S
reactant | sodium sulfate | 0.71 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | (5-nitro-indol-1-yl)-acetonitrile | 1.00 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC#N | C10H7N3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-carbamoylmethyl-5-nitro-1H-indole-3-sulfonyl chloride | 0.806 g, 51% yield | C(N)(=O)CN1C=C(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)Cl | C10H8ClN3O5S
